US08609644B2
3β-(3-Aminopropionyloxy)-6-(E)-hydroxyiminoandrostan-17-one hydrochloride (I-dm)
Following the procedure described in Example 1 and starting from 3β-(3-aminopropionyloxy)androstane-6,17-dione fumarate (Prepn. 69, 260 mg) and hydroxylamine hydrochloride (41 mg), the title compound I-dm was obtained (168 mg, 75%), after purification by flash chromatography (SiO2; CH2Cl2:MeOH 9:1). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 10.42 (1H, s), 8.13 (3H, bb), 4.63 (1H, m), 3.27 (1H, m), 2.98 (2H, t), 2.64 (2H, t), 2.45-0.95 (19H, m), 0.77 (3H, s), 0.69 (3H, s).

reactant | 3β-(3-aminopropionyloxy)androstane-6,17-dione fumarate | 260 mg | C(\C=C\C(=O)O)(=O)O.NCCC(=O)O[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O
reactant | hydroxylamine hydrochloride | 41 mg | Cl.NO
product | 3β-(3-Aminopropionyloxy)-6-(E)-hydroxyiminoandrostan-17-one hydrochloride | Cl.NCCC(=O)O[C@@H]1CC2/C(/C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=N/O | InChI=1S/C22H34N2O4.ClH/c1-21-8-5-13(28-20(26)7-10-23)11-17(21)18(24-27)12-14-15-3-4-19(25)22(15,2)9-6-16(14)21;/h13-17,27H,3-12,23H2,1-2H3;1H/b24-18+;/t13-,14-,15-,16-,17?,21+,22-;/m0./s1
